US06962932B2
a) 6-Methoxy-1-(4-fluorophenyl)-2-(3-pyridinyl)-1H-benzimidazole
N2-(4-Fluorophenyl)-4-methoxybenzene-1,2-diamine was reacted analogously to Example 11d with pyridine-3-carbaldehyde.

reactant | N2-(4-Fluorophenyl)-4-methoxybenzene-1,2-diamine | FC1=CC=C(C=C1)NC=1C(=CC=C(C1)OC)N | C13H13FN2O
reactant | pyridine-3-carbaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
product | 6-Methoxy-1-(4-fluorophenyl)-2-(3-pyridinyl)-1H-benzimidazole | COC=1C=CC2=C(N(C(=N2)C=2C=NC=CC2)C2=CC=C(C=C2)F)C1 | C19H14FN3O
